US07825253B2
N5-(1H-Indol-4-ylmethyl)-N2-(2-methyl-2,3-dihydro-benzofuran-7-yl)-quinoline-2,5-diamine
The title compound, MS: m/e=421.4 (M+H+), was prepared from 5-nitro-2-chloroquinoline, 2,3-dihydro-2-methyl-7-benzofuranamine (CAS 26210-74-2) and indole-4-carbaldehyde as described in example 26.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 2,3-dihydro-2-methyl-7-benzofuranamine | CC1OC2=C(C1)C=CC=C2N | C9H11NO
reactant | indole-4-carbaldehyde | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
product | N5-(1H-Indol-4-ylmethyl)-N2-(2-methyl-2,3-dihydro-benzofuran-7-yl)-quinoline-2,5-diamine | N1C=CC2=C(C=CC=C12)CNC=1C=2C=CC(=NC2C=CC1)NC1=CC=CC=2CC(OC21)C | C27H24N4O
